US06884868B1
To a solution of 4-[1-[4-(4-propylthiopiperidin-1-yl)phenyl]piperazin-4-yl]benzoic acid ethyl ester (1.22 g) in a mixture of ethanol (10 ml) and tetrahydrofuran (40 ml) was added 10% aqueous NaOH (2.1 ml) and 1N-NaOR (10 ml), and the mixture was refluxed for 6 hours. The reaction mixture was cooled and adjusted to pH 2.5-3.0 with 1N-HCl. The resulting precipitates were collected by filtration, washed in turn with water (30 ml) and IPE (50 ml) and dried in vacuo to give 4-[1-[4-(4-propylthiopiperidin-1-yl)phenyl]piperazin-4-yl]benzoic acid (0.99 g).

reactant | 4-[1-[4-(4-propylthiopiperidin-1-yl)phenyl]piperazin-4-yl]benzoic acid ethyl ester | 1.22 g | C(C)OC(C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(CC1)SCCC)=O | C27H37N3O2S
reactant | NaOH | 2.1 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-[1-[4-(4-propylthiopiperidin-1-yl)phenyl]piperazin-4-yl]benzoic acid | 0.99 g | C(CC)SC1CCN(CC1)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C25H33N3O2S
